US07598257B2
Step 1: 5-[(cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl)thio]-4H-1,2,4-triazol-3-amin
cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl methanesulfonate (124.56 mg, 0.00024 mol), and 5-amino-4H-1,2,4-triazole-3-thiol (43.00 mg, 0.0003702 mol) were dissolved in DMF (1.20 mL) and potassium carbonate (0.122 g, 0.000887 mol) was added. The reaction was stirred at 50° C. for 18 h, at which time LCMS showed nearly complete reaction, and product present. The reaction was extracted with ethyl acetate and the organic extracts were washed with water, saturated NaCl, dried (MgSO4) and concentrated in vacuo. The concentrate was chromatographed on silica gel using EtOAc as eluent to give the product. LC/MS (M+H)+: 526, 1H NMR(CDCl3):δ 8.90 (s, 1H), 8.40 (s, 1H), 8.30 (s, 1H), 7.45 (d, 1H), 6.87 (d, 1H), 5.73 (S, 2H), 4.45 (brs, 2H), 4.41 (m, 1H), 3.60 (m, 2H), 3.22 (d, 2H, J=7.2 Hz), 2.29 (m, 2H), 1.70-2.10 (m, 7H), 0.98 (m, 2H), 0.00 (s, 9H).

reactant | cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl methanesulfonate | 0.00024 mol, 124.56 mg | CS(=O)(=O)OC[C@@H]1CC[C@@H](CC1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C23H35N5O4SSi
reactant | 5-amino-4H-1,2,4-triazole-3-thiol | 0.0003702 mol, 43.00 mg | NC=1NC(=NN1)S | C2H4N4S
reactant | potassium carbonate | 0.000887 mol, 0.122 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.20 mL | CN(C)C=O | C3H7NO
product | 5-[(cis-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexylmethyl)thio]-4H-1,2,4-triazol-3-amin | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H]2CC[C@H](CC2)CSC=2NC(=NN2)N)(C)C | C24H35N9OSSi
